US08431575B2
To a stirred solution of 4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (94.2 mmol, 18.97 g) in THF (100 mL) at room temperature was added potassium tert-butoxide (87.0 mmol, 9.76 g) and continued stirring for 15 min. The reaction mixture was cooled to 0° C. using an ice bath. To this was added a solution of 3-butyl-6-chloro-4-(4-cyclohexyloxy-phenyl)-pyridazine (72.5 mmol, 25.0 g) in THF (100 mL). The reaction mixture was allowed to slowly attain room temperature while stirring overnight. The reaction was poured into a mixture of water (300 mL) and ethyl acetate (300 mL). The mixture was shaken and separated. The aqueous layer was extracted with ethyl acetate (2×100 mL). The combined organic layer was washed with brine (50 mL), dried (Na2SO4), filtered and concentrated under reduced pressure. The residue was purified on 330 g SiO2 cartridge using an ethyl acetate/hexanes gradient to provide 4-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxy]-pieridine-1-carboxylic acid tert-butyl ester.

reactant | 4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 94.2 mmol, 18.97 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | potassium tert-butoxide | 87.0 mmol, 9.76 g | CC(C)([O-])C.[K+]
reactant | 3-butyl-6-chloro-4-(4-cyclohexyloxy-phenyl)-pyridazine | 72.5 mmol, 25.0 g | C(CCC)C=1N=NC(=CC1C1=CC=C(C=C1)OC1CCCCC1)Cl | C20H25ClN2O
reactant | water | 300 mL | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | 4-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxy]-pieridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1N=NC(=C(C1)C1=CC=C(C=C1)OC1CCCCC1)CCCC | C30H43N3O4
